US08212078B2
4,4′-Methylenebis(benzeneamine) (MDA; 1.20 g), Pt(S)/C (1.20 g), and 2-butanone (methyl ethyl ketone, MEK; 50.0 g) were charged to an autoclave. The autoclave was degassed three times with H2 at 22° C. and the mixture was heated to 120° C. under 14 psig (1.98×105 Pa) H2 without stirring. At 120° C., with stirring, the autoclave was pressurized to 85 psig (6.87×105 Pa) with H2 over a period of twelve minutes. The reaction mixture was then cooled to 22° C. GC analysis showed 100% conversion of MDA, and a 96% yield of N,N′-di(2-butyl)-4,4′-methylenebis(benzeneamine).

reactant | 4,4′-Methylenebis(benzeneamine) | 1.20 g | C(C1=CC=C(C=C1)N)C1=CC=C(C=C1)N | C13H14N2
catalyst | Pt(S)/C | 1.20 g | [Pt] | Pt
solvent | 2-butanone | 50.0 g | CC(CC)=O | C4H8O
product | N,N′-di(2-butyl)-4,4′-methylenebis(benzeneamine) | 96% yield | CC(CC)NC1=CC=C(C=C1)CC1=CC=C(C=C1)NC(C)CC | C21H30N2
